US07402595B2
4-(4-acetylphenyl)-6-chloro-2-(4-methanesulfonylbenzyl)-3-propionyl-2H-isoquinolin-1-one
To a solution (2.0 ml) of 4-[6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-3-propionyl-1,2-dihydroisoquinolin-4-yl]benzoic acid methyl ester (100 mg) in THF was added dropwise gently a methyl lithium diethyl ether solution (1.1 mol/l, 0.25 ml) at −50° C. with stirring, and the mixture was allowed to warm to room temperature and stirred for 18 hrs. The reaction mixture was diluted with dichloromethane, washed with 1N hydrochloric acid, and the organic layer was dried over magnesium sulfate and concentrated under reduced pressure. The residue was purified by preparative HPLC to give the title compound (9 mg) in beige crystals. 1H NMR (CDCl3) δ: 0.54 (3H, t, J=7.2 Hz), 1.78 (2H, q, J=7.2 Hz), 2.67 (3H, s), 3.02 (3H, s), 5.35 (2H, s), 7.19 (1H, d, J=2.1 Hz), 7.37-7.47 (4H, m), 7.54 (1H, dd, J=2.1 Hz), 7.89 (2H, d, J=8.7 Hz), 8.06 (2H, d, J=8.7 Hz), 8.47 (1H, d, J=8.7 Hz). HPLC analysis: purity 97.7% (retention time: 4.29 min). MS (ESI+): 522.0 (M+H), 524.0.

reactant | 4-[6-chloro-2-(4-methanesulfonylbenzyl)-1-oxo-3-propionyl-1,2-dihydroisoquinolin-4-yl]benzoic acid methyl ester | 2.0 ml, 100 mg | COC(C1=CC=C(C=C1)C1=C(N(C(C2=CC=C(C=C12)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CC)=O)=O | C28H24ClNO6S
reactant | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-(4-acetylphenyl)-6-chloro-2-(4-methanesulfonylbenzyl)-3-propionyl-2H-isoquinolin-1-one | 9 mg | C(C)(=O)C1=CC=C(C=C1)C1=C(N(C(C2=CC=C(C=C12)Cl)=O)CC1=CC=C(C=C1)S(=O)(=O)C)C(CC)=O | C28H24ClNO5S
